US09085576B2
A solution of methyl 5-((tert-butoxycarbonyl)amino)pyrimidine-2-carboxylate (1.31 g, 5.16 mmol) in DMF (13 mL) was treated with cesium carbonate (2.19 g, 6.71 mmol) followed by iodomethane (0.64 mL, 10.32 mmol). The resulting suspension was stirred at ambient temperature for 5 h. The suspension was diluted with DCM (50 mL), filtered, concentrated, and purified by flash chromatography on silica gel eluting with a gradient of 0 to 40% EtOAc in DCM to give methyl 5-((tert-butoxycarbonyl)(methyl)amino)pyrimidine-2-carboxylate (1.16 g, 84% yield) as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.91 (s, 2H), 4.07 (s, 3H), 3.38 (s, 3H), 1.52 (s, 9H).

reactant | methyl 5-((tert-butoxycarbonyl)amino)pyrimidine-2-carboxylate | 5.16 mmol, 1.31 g | C(C)(C)(C)OC(=O)NC=1C=NC(=NC1)C(=O)OC | C11H15N3O4
reactant | cesium carbonate | 6.71 mmol, 2.19 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 10.32 mmol, 0.64 mL | IC | CH3I
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-((tert-butoxycarbonyl)(methyl)amino)pyrimidine-2-carboxylate | 1.16 g, 84% yield | C(C)(C)(C)OC(=O)N(C=1C=NC(=NC1)C(=O)OC)C | C12H17N3O4
